US08420816B2
(R)-4-(1-(1,1-dioxidothiazolidin-3-yl)-3-methyl-1-oxobutan-2-yl)-6-fluoro-4,5-dihydropyrrolo[4,3,2-de][2,6]naphthyridin-3(1H)-one
(R)-2-(6-Fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid (15 mg, 0.051 mmol), HOBt hydrate (9.46 mg, 0.062 mmol), and EDC hydrochloride (14.81 mg, 0.077 mmol) were combined in DMF (2 mL). Thiazolidine 1,1-dioxide hydrochloride (12.17 mg, 0.077 mmol) and 4-methylmorpholine (0.023 mL, 0.206 mmol) were added, and the reaction mixture was stirred at room temperature for 2 h. The product was purified by preparative HPLC (10-45% AcCN/H2O with 0.035% TFA), concentrated in vacuo, and lyophilized to afford the title compound as a white solid (8.8 mg, 43%). 1H NMR (500 MHz, DMSO-d6) δ 0.76-0.81 (m, 3H), 0.95 (d, J=6.5 Hz, 3H), 2.41-2.50 (m, 1H), 3.35-3.45 (m, 2H), 3.80-3.89 (m, 2H), 4.49-4.91 (m, 4H), 5.18-5.42 (m, 1H), 8.01 (d, J=2.5 Hz, 1H), 8.24 (d, J=2.5 Hz, 1H), 12.43 (s, 1H). [M+H] calc'd for C17H19FN4O4S, 395; found, 395.

reactant | (R)-2-(6-Fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid | 0.051 mmol, 15 mg | FC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)O)C(C)C)=O)=CN2 | C14H14FN3O3
reactant | HOBt hydrate | 0.062 mmol, 9.46 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDC hydrochloride | 0.077 mmol, 14.81 mg | CCN=C=NCCCN(C)C.Cl
reactant | Thiazolidine 1,1-dioxide hydrochloride | 0.077 mmol, 12.17 mg | Cl.S1(CNCC1)(=O)=O
reactant | 4-methylmorpholine | 0.206 mmol, 0.023 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (R)-4-(1-(1,1-dioxidothiazolidin-3-yl)-3-methyl-1-oxobutan-2-yl)-6-fluoro-4,5-dihydropyrrolo[4,3,2-de][2,6]naphthyridin-3(1H)-one | 8.8 mg, 43% | O=S1(CN(CC1)C([C@@H](C(C)C)N1CC=2C(=CN=C3C2C(C1=O)=CN3)F)=O)=O | C17H19FN4O4S
